Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Allergies/ADRs on File
 
Attending: ___.
 
Chief Complaint:
ped struck 65mph + loc, l calf hematoma
 
Major Surgical or Invasive Procedure:
None 
 
History of Present Illness:
Patient was crossing road near rotary and struck by a car
estimated to be traveling at ___ miles per hour. Positive
headstrike and positive loss of consciousness. GCS 14 and
hemodynamically stable upon arrival. Patient cannot recall the
event. Patient complains of isolated left lower extremity pain
from thigh to mid-tibia. Denies abdominal pain, chest pain,
shortness of breath, nausea, upper extremity pain, neck pain,
back pain, and right lower extremity pain.
 
Past Medical History:
PMH/PSH: Hyperlipidemia.  Mitral valve prolapse.

 
Social History:
___
Family History:
NC
 
Physical Exam:
At admission:
Gen: [X] NAD, [] AAOx3
CV: [X] RRR, [] murmur
Resp: [X] breaths unlabored, [] CTAB, [] wheezing, [] rales
Abdomen: [X] soft, [] distended, [] tender [] rebound/guarding
Wound: [] incisions clean, dry, intact
Ext: [X] warm, [X] LLE tender, [] edema

On discharge:
Gen: [X] NAD, [] AAOx3
CV: [X] RRR, [] murmur
Resp: [X] breaths unlabored, [] CTAB, [] wheezing, [] rales
Abdomen: [X] soft, [] distended, [] tender [] rebound/guarding
Wound: [] incisions clean, dry, intact
Ext: [X] warm, [X] LLE tender to palpation - motor and sensory
intact. compartments soft [] edema

 
Pertinent Results:
___ 02:36PM BLOOD WBC-9.0 RBC-2.96* Hgb-9.2* Hct-27.7* 
MCV-94 MCH-31.1 MCHC-33.2 RDW-13.1 RDWSD-44.8 Plt ___
___ 06:48AM BLOOD WBC-8.0 RBC-2.80* Hgb-8.6* Hct-25.5* 
MCV-91 MCH-30.7 MCHC-33.7 RDW-13.2 RDWSD-43.7 Plt ___
___ 09:28AM BLOOD WBC-11.3* RBC-3.32* Hgb-10.2* Hct-30.0* 
MCV-90 MCH-30.7 MCHC-34.0 RDW-13.2 RDWSD-43.4 Plt ___
___ 07:44AM BLOOD WBC-11.2* RBC-3.39* Hgb-10.3* Hct-30.8* 
MCV-91 MCH-30.4 MCHC-33.4 RDW-13.2 RDWSD-43.3 Plt ___
___ 06:06PM BLOOD WBC-9.1 RBC-4.18* Hgb-12.9* Hct-38.0* 
MCV-91 MCH-30.9 MCHC-33.9 RDW-13.1 RDWSD-43.6 Plt ___
___ 07:44AM BLOOD Neuts-72.3* Lymphs-11.7* Monos-15.3* 
Eos-0.2* Baso-0.1 Im ___ AbsNeut-8.07* AbsLymp-1.31 
AbsMono-1.71* AbsEos-0.02* AbsBaso-0.01
___ 06:06PM BLOOD Neuts-59.1 ___ Monos-10.8 Eos-1.2 
Baso-0.2 Im ___ AbsNeut-5.37 AbsLymp-2.58 AbsMono-0.98* 
AbsEos-0.11 AbsBaso-0.02
___ 02:36PM BLOOD Plt ___
___ 06:48AM BLOOD Plt ___
___ 06:48AM BLOOD ___ PTT-22.6* ___
___ 09:28AM BLOOD Plt ___
___ 07:44AM BLOOD Plt ___
___ 06:06PM BLOOD Plt ___
___ 06:06PM BLOOD ___ PTT-23.7* ___
___ 06:48AM BLOOD Glucose-104* UreaN-11 Creat-0.9 Na-137 
K-4.3 Cl-101 HCO3-24 AnGap-12
___ 06:06PM BLOOD Lipase-27
___ 06:48AM BLOOD Calcium-8.4 Phos-3.1 Mg-1.9
___ 06:20PM BLOOD Glucose-146* Lactate-2.3* Creat-0.8 
Na-135 K-3.6 Cl-99 calHCO3-24
 
Brief Hospital Course:
Patient was crossing road near rotary and struck by a car 
estimated to be traveling at ___ miles per hour ON ___. 
Positive headstrike and positive loss of consciousness. GCS 15 
and hemodynamically stable upon arrival. Patient cannot recall 
the event. Patient complains of isolated left lower extremity 
pain from thigh to mid-tibia. He was admitted into ACS trauma 
for further evaluation. During his stay in the Emergency 
department ON ___ he presented with orthostatic hypotension 
and complained of increased pain in his left lower extremity. 
Ortho was consulted to rule out compartment syndrome, due to a 
well-perfused extremity with painless active and passive 
dorsiflexion of his ankle and no evidence of edema or tight 
compartments they ruled out compartment syndrome. He later on 
went to the floor where he was found to be resting comfortably. 
He worked with physical therapy and occupation therapy who 
recommended a walker, which patient used during hospital stay 
without any complication. His hematocrit was trended throughout 
his hospital stay and was found to be stable. On ___ patient 
was walking without any complication, orthostatic hypotension 
had resolved and was found ready for discharge. Warning signs 
were explained patient reported he understood and will follow up 
with us on clinic. On ___.9 patient in stable condition was 
discharged home, educated re instructions and follow up plan. 
Patient understood and agreed with the plan.
 
Medications on Admission:
asa 81
simvastatin 20mg  daily
Flomax 0.4 daily 
 
Discharge Medications:
1.  Acetaminophen 650 mg PO TID  
2.  Aspirin 81 mg PO DAILY  
3.  Simvastatin 20 mg PO QPM  
4.  Tamsulosin 0.4 mg PO QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Left calf hematoma 
Left calf hematoma 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted into the ___ Trauma service following your 
accident, and after treatment of your left calf hematoma.

Please continue to  left lower extremity when sitting down for 
improvement of symptoms. 

Please call if there is any change in color, temperature or 
intensity of pain in your lower extremity.

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please read the warning signs below and call if any of them 
present. 

 
 
Followup Instructions:
___